US04537890
4-(5-Bromo-3-methylpyrid-2-yl)butylamine (0.71 gm) and 2-nitroamino-5-(1-benzyl-2-oxo-pyrid-4-ylmethyl)-4-pyrimidone (1.0 gm) were refluxed in pyridine (3 ml) for 8 hrs., an extra 0.13 gm of the amine was added and reaction was refluxed for a further 5.5 hrs. The pyridine was removed in vacuo, the residue was re-evaporated with n-propanol (2×40 ml). The residue was dissolved in warm ethanol (10 ml) ether added and on cooling a white solid was obtained which was recrystallised from acetonitrile-water (9:1) to give 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(1-benzyl-2-oxo-pyrid-4-ylmethyl)4-pyrimidone (1.18 gm) m.p. 140°-144° C.

reactant | 4-(5-Bromo-3-methylpyrid-2-yl)butylamine | 0.71 gm | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 2-nitroamino-5-(1-benzyl-2-oxo-pyrid-4-ylmethyl)-4-pyrimidone | 1.0 gm | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CC1=CC=CC=C1)=O | C17H15N5O4
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(5-bromo-3-methylpyrid-2-yl)butylamino]-5-(1-benzyl-2-oxo-pyrid-4-ylmethyl)4-pyrimidone | 1.18 gm | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CC1=CC=CC=C1)=O)C | C27H28BrN5O2
